US04358448
2-(2-tritylimino-3-amino-4-thiazolinyl)-2-methoxyimino acetic acid (syn-isomer).
O-mesitylenesulfonylhydroxylamine (1.3 g.) was added at room temperature to a stirred suspension of 2-(2-tritylamino-4-thiazolyl)-2-methoxyimino acetic acid (2.15 g) in methylene chloride (40 ml), thus giving in a few minutes the complete dissolution of the reaction mixture. Stirring was maintained for 18 hours, during which time the mesitylenesulfonic salt of the title compound slowly separates as a white solid. The product was filtered and washed with ethyl ether, thus giving 2.98 g (92%) of 2-(2-tritylimino-3-amino-4-thiazolinyl)-2-methoxyimino acetic acid, mesitylene sulfonate, m.p.=161°-163° dec.

reactant | O-mesitylenesulfonylhydroxylamine | 1.3 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)ON)C | C9H13NO3S
reactant | 2-(2-tritylamino-4-thiazolyl)-2-methoxyimino acetic acid | 2.15 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOC | C25H21N3O3S
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-tritylimino-3-amino-4-thiazolinyl)-2-methoxyimino acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N=C1SC=C(N1N)C(C(=O)O)=NOC | C25H22N4O3S
